US04912107
2.0 g (13.7 mmole) 2-indolealdehyde and 5.3 g (13.7 mmole) benzyltriphenylphosphonium chloride are heated to a boil in 30 ml dry ethanol. A freshly prepared solution of 0.32 g (13.9 mmole) sodium in 15 ml ethanol is added dropwise thereto within about 1.5 hours. Subsequently, it is boiled under reflux for one hour, after cooling the solvent is distilled off, and the residue is partitioned between dichloromethane and water. The organic phase is dried over sodium sulphate, evaporated, and the residue chromatographed o silica gel with cyclohexane/toluene 7:3. The fraction with the Rf of 0.4 is isolated. One obtains (Z)-1-(2-indolyl)-2-phenylethylene in the form of a pale yellow oil which, in the case of drying in a vacuum, crystallizes. The fraction with the Rf of 0.2 is evaporated, the residue stirred with cyclohexane, and the crystals formed are filtered off. One obtains (E)-1-(2-indolyl)-2-phenylethylene in the form of almost colorless crystals of the mp 205°-206° C. The preparation of the 2-indolealdehyde takes place according to the statements in the literature (Arch Pharm 310, 975, 1977) from 2-indolecarboxylic acid esters.

reactant | 2-indolealdehyde | 13.7 mmole, 2.0 g | N1C(=CC2=CC=CC=C12)C=O | C9H7NO
reactant | sodium | 13.9 mmole, 0.32 g | [Na] | Na
catalyst | benzyltriphenylphosphonium chloride | 13.7 mmole, 5.3 g | [Cl-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | (Z)-1-(2-indolyl)-2-phenylethylene | N1C(=CC2=CC=CC=C12)\C=C/C1=CC=CC=C1 | C16H13N
